US06881736B1
b) (±)-4-[4-[2-[6-(Methylamino)pyridin-2-yl]-1-ethoxy]phenyl]-3-[4-(trifluoromethyl)phenyl]butanoic acid
1.0 N NaOH (8.2 mL, 0.823 mmole) was added dropwise to a cooled (15° C.) solution of ethyl (±)-4-[4-[2-[6-(methylamino)pyridin-2-yl]-1 ethoxy]phenyl]-3-[4-(trifluoromethyl)phenyl)butanoate (200 mg, 0.41 mmole) in MeOH (3 mL), and the mixture was stirred at RT for 24 hr. The resulting solution was concentrated in vacuum and the residue was dissolved in H2O (5 mL). The pH was adjusted to 5 with 1.0 N HCl, and the precipitate was collected, washed with small amount of water, and dried in vacuum at 60° C. The title compound (120 mg, 64%) was obtained as a white, foamy solid: MS (ES) me 459 (M+H)+. Anal. Calcd for C25H25FN2O3.0.85H2O: C, 63.38; H, 5.68; N, 5.91. Found: C, 63.23; H, 5.41; N, 5.73.

reactant | NaOH | 0.823 mmole, 1.0 N, 8.2 mL | [OH-].[Na+]
reactant | ethyl (±)-4-[4-[2-[6-(methylamino)pyridin-2-yl]-1 ethoxy]phenyl]-3-[4-(trifluoromethyl)phenyl)butanoate | 0.41 mmole, 200 mg | CNC1=CC=CC(=N1)CCOC1=CC=C(C=C1)CC(CC(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C27H29F3N2O3
solvent | MeOH | 3 mL | CO | CH4O
product | (±)-4-[4-[2-[6-(Methylamino)pyridin-2-yl]-1-ethoxy]phenyl]-3-[4-(trifluoromethyl)phenyl]butanoic acid | 120 mg, 64% | CNC1=CC=CC(=N1)CCOC1=CC=C(C=C1)CC(CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C25H25F3N2O3
